US06677368B2
A mixture of 3,5-dimethyl-1H-pyrrole-2-carbaldehyde (2.5 g, 20 mmol) in THF (40 mL), water (20 mL), acetic acid (3 mL), formaldehyde (37% wt. % solution in water, 5 mL) and the appropriate amine (30 mL) was heated to reflux (oil bath 90-100° C.) for 6 hours and then stirred at rt for overnight. The reaction was concentrated to a volume of 30 mL, basified with 2N NaOH and extracted with ethyl acetate (2×150 mL) and DCM (4×100 mL). The combined organic layers were concentrated and the residue was purified on a silica gel column to give 2.3 g (49%) of 4-(4-hydroxy-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde as a solid.

reactant | 3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 20 mmol, 2.5 g | CC1=C(NC(=C1)C)C=O | C7H9NO
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | formaldehyde | 5 mL | C=O | CH2O
product | 4-(4-hydroxy-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 2.3 g, 49% | OC1CCN(CC1)CC=1C(=C(NC1C)C=O)C | C13H20N2O2
